US08314108B2
5-Bromo-N-(5-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-yl)pyrazin-2-amine
5-Bromopyrazin-2-amine (3.73 g, 21.4 mmol) is dissolved in THF (30 mL) and cooled to −78° C. A solution of n-butyllithium in hexane (10.32 mL, 23.5 mmol) is added slowly. The reaction mixture is stirred at low temperature for 15 min and then warmed slowly to room temperature and stirred an additional one hour. The mixture is recooled to 0° C. and a solution of 1-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-3,3-bis(methylthio)prop-2-en-1-one (8.39 g, 21.4 mmol) in THF (50 mL) is added via cannula. The solution becomes homogenous and is stirred 15 min at room temperature before being heated to reflux for 10 h. The solution is then cooled to room temperature and the solvent is removed under reduced pressure. The solid residue is dissolved in EtOH (150 mL) and glacial acetic acid (1.3 mL, 23.5 mmol) is added. Hydrazine hydrate (5.25 mL, 107 mmol) is added and the solution is refluxed an additional 8 h. The mixture is cooled to room temperature and concentrated under vacuum. The product is purified by silica gel chromatography (CH2Cl2/MeOH) to give 5.76 g (74%) of a brown solid.

reactant | 5-Bromopyrazin-2-amine | 21.4 mmol, 3.73 g | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 23.5 mmol, 10.32 mL | CCCCCC | C6H14
reactant | 1-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-3,3-bis(methylthio)prop-2-en-1-one | 21.4 mmol, 8.39 g | COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C(C=C(SC)SC)=O | C20H22O4S2
reactant | acetic acid | 23.5 mmol, 1.3 mL | C(C)(=O)O | C2H4O2
reactant | Hydrazine hydrate | 107 mmol, 5.25 mL | O.NN
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Bromo-N-(5-(2-methoxy-6-(4-methoxybenzyloxy)phenyl)-1H-pyrazol-3-yl)pyrazin-2-amine | 5.76 g, 74% | BrC=1N=CC(=NC1)NC1=NNC(=C1)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OC | C22H20BrN5O3
